US05420275
N-Boc-4-(3-phthalimidopropyloxy)phenylglycine methyl ester
To 10 ml of anhydrous DMF were added 2.8 g of N- Boc-p-hydroxyphenylglycine methyl ester and 1.38 g (1.0 eq) of anhydrous potassium carbonate, followed by addition of 2.68 g (1.0 eq.) of N-(3-bromopropyl)phthalimide. The mixture was heated at 100° C. for 1 hour. The reaction mixture was poured into ice water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous solution of sodium chloride, and dried. Thereafter, the solvent was distilled off. The residue was purified by silica gel column chromatography (eluent: 5% ethyl acetate/dichloromethane), to give colorless crystals.

reactant | N- Boc-p-hydroxyphenylglycine methyl ester | 2.8 g | COC(CN(C(=O)OC(C)(C)C)C1=CC=C(C=C1)O)=O | C14H19NO5
reactant | potassium carbonate | 1.38 g, 1.0 eq | C([O-])([O-])=O.[K+].[K+]
reactant | N-(3-bromopropyl)phthalimide | 2.68 g, 1.0 eq. | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N-Boc-4-(3-phthalimidopropyloxy)phenylglycine methyl ester | COC(CN(C(=O)OC(C)(C)C)C1=CC=C(C=C1)OCCCN1C(C=2C(C1=O)=CC=CC2)=O)=O | C25H28N2O7
